US07335658B2
3-(4-FLUOROPHENYL)-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}PROPIONAMIDE
Following the procedure of Example 2, making variations only as required to use 3-(4-fluorophenyl)propionic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (58.5% yield). 1H NMR (300 MHz, CDCl3) δ 10.33, 8.40, 7.78, 7.67, 7.60, 7.36, 7.14, 7.08, 6.85, 3.90, 3.51, 3.20, 3.02, 2.92. MS (ES+) m/z 502.7 (M+1).

reactant | 3-(4-fluorophenyl)propionic acid | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 3-(4-FLUOROPHENYL)-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}PROPIONAMIDE | FC1=CC=C(C=C1)CCC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F4N5O2
